US04547573
To a stirred solution of t-butyl 3-acetoxymethyl-7-aminoceph-3-em-4-carboxylate (164 mg.) in anhydrous CH2Cl2 at room temperature was added a molar solution of anhydrous toluene-p-sulphonic acid in CH2Cl2 (0.5 ml.) and then 1-(2,2-diethoxyethyl)-3-trimethylsilylcarbodiimide (125 μl.). Stirring was continued for 10 minutes and the solvent was evaporated. The residue, t-butyl 3-acetoxymethyl-7-[2-(2,2-diethoxyethyl)-3-trimethylsilyl]guanidinoceph-3-em-4-carboxylate, was dissolved in acetonitrile and 12N aqueous HCl (42 μl.) added. The mixture was stirred for 1.5 hours at room temperature, and the solvent evaporated. To the residue, t-butyl 3-acetoxymethyl-7-(imidazol-2 -yl)aminoceph-3-em-4-carboxylate, was added trifluoracetic acid and the mixture was stirred for 15 minutes. The solvent was evaporated and the residue was precipitated from a solution in the minimum of CH2Cl2 with ether. The precipitate was dissolved in CH2Cl2 /MeOH and the solvent evaporated to give 3-acetoxymethyl- 7-(imidazol-2-yl)aminoceph-3-em-4-carboxylic acid (262 mg. of 42% strength), identical with the product obtained in Example 2 (yield from 7-amino derivative 65%).

reactant | t-butyl 3-acetoxymethyl-7-aminoceph-3-em-4-carboxylate | 164 mg | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)OC(C)(C)C)C(C2N)=O | C14H20N2O5S
reactant | toluene-p-sulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 1-(2,2-diethoxyethyl)-3-trimethylsilylcarbodiimide | 125 μl | C(C)OC(CN=C=N[Si](C)(C)C)OCC | C10H22N2O2Si
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.5 ml | C(Cl)Cl | CH2Cl2
product | 3-acetoxymethyl- 7-(imidazol-2-yl)aminoceph-3-em-4-carboxylic acid | 262 mg, 42% | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2NC=2NC=CN2)=O | C13H14N4O5S
